US06727264B1
N-(3-{1-[(3S)-3-AMINO-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of N-(3-{1-[(3S)-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide (4.60 g, 9.06 mmol) and hydrazine (3.62 g, 72.4 mmol) in ethanol (150 mL) was refluxed for 12 h. The resulting white precipitate was filtered out and the filtrate was concentrated under vacuum. The residue was washed with CH2Cl2/EtOAc (1:1, 3×50 mL) and the combined organic fractions were concentrated in vacuo to give the desired product (2.90 g, 95%). 1H NMR (400 MHz, CDCl3) δ 7.45 (s, 1H), 7.39-7.30 (m, 6H), 7.29-7.19 (m, 2H), 6.95 (d, 1H, J=7.2), 4.01 (t, 1H, J=6.8 Hz), 3.04 (t, 2H, J=10.6 Hz), 2.62-2.30 (m, 6H), 2.05-1.70 (m, 8H), 1.24 (d, 6H, J=6.8 Hz); ESMS m/e: 380.4 (M+H)+.

reactant | N-(3-{1-[(3S)-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 9.06 mmol, 4.60 g | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H35N3O3
reactant | hydrazine | 72.4 mmol, 3.62 g | NN | H4N2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N-(3-{1-[(3S)-3-AMINO-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 2.90 g, 95% | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
